US08252797B2
A mixture of 1,3-dipropyl-8-(1-prop-2-ynyl-1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.1 g, 0.212 mmol), N-methyl piperazine (0.025 g, 0.254 mmol), formaldehyde (0.08 ml), CuI (0.008 g), and DMSO (2 ml) was stirred at 30° C. for 72 hours. The mixture was cooled to 25° C. and the residue was diluted with water (10 ml) and extracted with ethylacetate (2×10 ml). The organic layer was washed with saturated brine solution (50 ml) and dried over Na2SO4. The solvent was evaporated to obtain pure 8-{1-[4-(4-Methyl-piperazin-1-yl)-but-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.105 g, 85%).

reactant | 1,3-dipropyl-8-(1-prop-2-ynyl-1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.212 mmol, 0.1 g | C(CC)N1C(N(C=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NN(C1)CC#C)CCC)=O | C23H34N6O3Si
reactant | N-methyl piperazine | 0.254 mmol, 0.025 g | CN1CCNCC1 | C5H12N2
reactant | formaldehyde | 0.08 ml | C=O | CH2O
reactant | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
catalyst | CuI | 0.008 g | [Cu]I
product | 8-{1-[4-(4-Methyl-piperazin-1-yl)-but-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.105 g, 85% | CN1CCN(CC1)CC#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC | C29H46N8O3Si
